US09216980B2
Step 2: 2-Bromo-4,5,6,7-tetrahydrobenzo[b]thiophene
4,5,6,7-Tetrahydrobenzo[b]thiophene (0.252 g, 1.79 mmol) was dissolved in chloroform (10 mL), cooled to 0° C. and N-bromosuccinimide (0.334 g, 1.88 mmol) was added. The reaction mixture was stirred at 0° C. for 1 h then at ambient temperature for 1.75 h and then heated at 40° C. for a further 4 h. The reaction mixture was cooled to room temperature, concentrated in vacuo and the residue diluted with water and extracted with diethyl ether (4×10 mL). The combined organic phase was washed with water and brine, dried over sodium sulfate, filtered and evaporated to afford the title compound (0.35 g, 88%) as a brown oil. NMR (CDCl3, 300 MHz): 6.69 (s, 1H), 2.73-2.59 (m, 2H), 2.58-2.49 (m, 2H), 1.88-1.70 (m, 4H).

reactant | 4,5,6,7-Tetrahydrobenzo[b]thiophene | 1.79 mmol, 0.252 g | S1C2=C(C=C1)CCCC2 | C8H10S
reactant | N-bromosuccinimide | 1.88 mmol, 0.334 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-4,5,6,7-tetrahydrobenzo[b]thiophene | 0.35 g, 88% | BrC1=CC2=C(S1)CCCC2 | C8H9BrS
